US05028728
11.5 g (0.205 mol) of potassium hydroxide are added to a solution of 42.6 g (0.1 mol) of 2,2-bis-(4-hydroxy-3-nitrophenyl) -hexafluoropropane and 39.1 g (0.205 mol) of p-toluenesulfonyl chloride in 300 ml of methylene chloride. The reaction mixture is then stirred at room temperature for five hours, in the course of which it turns an orange-yellow color. After precipitated potassium chloride (16 g) has been removed, the filtrate is dried over MgSO4. Removing the solvent and recrystallizing from toluene gives 43 g of 2,2-bis-(3-nitro-4-tosyloxyphenyl)-hexafluoropropane. Yield 58%; m.p. 206-208° C.

reactant | potassium hydroxide | 0.205 mol, 11.5 g | [OH-].[K+]
reactant | 2,2-bis-(4-hydroxy-3-nitrophenyl) -hexafluoropropane | 0.1 mol, 42.6 g | OC1=C(C=C(C=C1)C(C(F)(F)F)(C(F)(F)F)C1=CC(=C(C=C1)O)[N+](=O)[O-])[N+](=O)[O-] | C15H8F6N2O6
reactant | p-toluenesulfonyl chloride | 0.205 mol, 39.1 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 2,2-bis-(3-nitro-4-tosyloxyphenyl)-hexafluoropropane | 43 g, Yield 58% | [N+](=O)([O-])C=1C=C(C=CC1OS(=O)(=O)C1=CC=C(C)C=C1)C(C(F)(F)F)(C(F)(F)F)C1=CC(=C(C=C1)OS(=O)(=O)C1=CC=C(C)C=C1)[N+](=O)[O-] | C29H20F6N2O10S2
